US05538976
5-[N-(4-Cyanophenyl)-N-(3-fluoro-4-nitrobenzyl)amino]pyrimidine
Starting compounds: 5-[N-(4-cyanophenyl) amino]pyrimidine and 3-fluoro-4-nitrobenzyl bromide

reactant | 5-[N-(4-cyanophenyl) amino]pyrimidine | C(#N)C1=CC=C(C=C1)NC=1C=NC=NC1 | C11H8N4
reactant | 3-fluoro-4-nitrobenzyl bromide | FC=1C=C(CBr)C=CC1[N+](=O)[O-] | C7H5BrFNO2
product | 5-[N-(4-Cyanophenyl)-N-(3-fluoro-4-nitrobenzyl)amino]pyrimidine | C(#N)C1=CC=C(C=C1)N(CC1=CC(=C(C=C1)[N+](=O)[O-])F)C=1C=NC=NC1 | C18H12FN5O2
